US08865726B2
(S)-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(2-methoxyphenyl)oxazolidin-2-one
A mixture of (S)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(2-methoxyphenyl) oxazolidin-2-one (0.0424 g, 0.071 mmol) in DCM (1 mL) was treated with trifluoroacetic acid (0.5 mL) at ambient temperature. The mixture was stirred for 18 hours. The solvent was concentrated and the residue was partitioned between EtOAc and saturated aqueous NaHCO3. The aqueous layer was further extracted with EtOAc and DCM. The combined organic extracts were washed with brine, dried, and concentrated, and the crude material was purified by column chromatography (silica, 10% MeOH/dichloromethane) to afford the title compound (0.011 g, 33%) as a yellow solid. MS (APCI+) m/z 472 [M+H]+.

reactant | (S)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(2-methoxyphenyl) oxazolidin-2-one | 0.071 mmol, 0.0424 g | FC=1C=C(C=CC1C1=NN(C=N1)COCC[Si](C)(C)C)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=C(C=CC=C2)OC)=O | C30H32FN7O4Si
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(2-methoxyphenyl)oxazolidin-2-one | 0.011 g, 33% | FC=1C=C(C=CC1C1=NNC=N1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=C(C=CC=C2)OC)=O | C24H18FN7O3
